US06075029
A. Preparation of 5,6-Diamino-1-methyluracil
Glacial acetic acid (4.5 ml 75 mmol) was added to a suspension of 6-amino-1-methyluracil (5.66 g, 50 mmol) in hot water (100 ml). Sodium nitrite (4.14 g) was added in portions and the reaction mixture was stirred for 1 hour. The resulting solid was collected by filtration, washed with water (75 ml) and resuspended in water (100 ml). After warming to 50° C., sodium dithionite (10 g) was added in portions maintaining the reaction temperature between 50° C. and 55° C. After stirring at 50° C. for an additional 1 hour, the mixture was cooled to room temperature and filtered. The solid was washed with water (2×25 ml), with acetone (2×25 ml) and then dried under vacuum. Yield=5.6 g.

reactant | acetic acid | 75 mmol, 4.5 ml | C(C)(=O)O | C2H4O2
reactant | 6-amino-1-methyluracil | 50 mmol, 5.66 g | NC1=CC(NC(N1C)=O)=O | C5H7N3O2
reactant | Sodium nitrite | 4.14 g | N(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
product | 5,6-Diamino-1-methyluracil | NC=1C(NC(N(C1N)C)=O)=O | C5H8N4O2
